US08877779B2
(R)-1-[1-(5-methyl-1,2,3,4-tetrahydronaphthalen-1-yl)piperidin-4-yl]-1,3-dihydro-2H-benzimidazol-2-one
(R)-N-[1-(5-Methyl-1,2,3,4-tetrahydronaphthalen-1-yl)piperidin-4-yl]-benzene-1,2-diamine (1.83 g) was dissolved in tetrahydrofuran (100 ml), 1,1′-carbonyldiimidazole (973 mg) was added, and the mixture was stirred at room temperature for 10 hr. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) and crystallized with hexane/ethyl acetate to give the title compound (1.2 g) as a white solid.

reactant | (R)-N-[1-(5-Methyl-1,2,3,4-tetrahydronaphthalen-1-yl)piperidin-4-yl]-benzene-1,2-diamine | 1.83 g | CC1=C2CCC[C@H](C2=CC=C1)N1CCC(CC1)NC=1C(=CC=CC1)N | C22H29N3
reactant | 1,1′-carbonyldiimidazole | 973 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | water | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | (R)-1-[1-(5-methyl-1,2,3,4-tetrahydronaphthalen-1-yl)piperidin-4-yl]-1,3-dihydro-2H-benzimidazol-2-one | 1.2 g | CC1=C2CCC[C@H](C2=CC=C1)N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C23H27N3O
